US07732440B2
3-(4-Hydroxyiminocyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide
67 mg of 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)propionamide and 14 mg of hydroxylamine hydrochloride are dissolved in 13 ml of methanol and heated at the boil under reflux for three hours. The methanol is then removed under reduced pressure, and the resulting residue is taken up in a mixture of 20 ml of ethyl acetate and 10 ml of water. The organic phase is washed twice with in each case 10 ml of water, dried over MgSO4, concentrated under reduced pressure and then lyophilized. This gives 49 mg of 3-(4-hydroxyiminocyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide.

reactant | 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)propionamide | 67 mg | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)NC1=NN(C=C1)C)CC1CCC(CC1)=O)(=O)=O | C26H28N4O4S
reactant | hydroxylamine hydrochloride | 14 mg | Cl.NO
solvent | methanol | 13 ml | CO | CH4O
product | 3-(4-Hydroxyiminocyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide | ON=C1CCC(CC1)CC(C(=O)NC1=NN(C=C1)C)C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C26H29N5O4S
